US05977178
A solution of N-((1R)-1-(N-((1R)-1-(dimethylcarbamoyl)-2-phenylethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butylester (6.6 g, 12.8 mmol) in 50% trifluoroacetic acid/dichloromethane (15 ml) was stirred for 10 min. Then saturated sodium bicarbonate was added until pH 8 and the organic phase was separated. The aqueous phase was extracted with dichloromethane (2 ×20 ml) and the combined organic phases were washed with brine (10 ml), dried over magnesium sulfate and concentrated in vacuo to give 4.2 g of (2R)-N-((1R)-1-dimethylcarbamoyl-2- phenylethyl)-N-methyl-2-methylamino-3-(2-naphthyl) propionamide.

reactant | N-((1R)-1-(N-((1R)-1-(dimethylcarbamoyl)-2-phenylethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butylester | 12.8 mmol, 6.6 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@H](CC1=CC=CC=C1)C(N(C)C)=O)=O)=O | C31H39N3O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | trifluoroacetic acid dichloromethane | 15 ml | FC(C(=O)O)(F)F.ClCCl
product | (2R)-N-((1R)-1-dimethylcarbamoyl-2- phenylethyl)-N-methyl-2-methylamino-3-(2-naphthyl) propionamide | 4.2 g | CN(C(=O)[C@@H](CC1=CC=CC=C1)N(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C)C | C26H31N3O2
